data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(C)CC1F.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(C)CC1F.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(C)CC1F", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(C)CC2F.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(C)CC2F", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(C(=O)CC41c4ccccc4N(C)C31)C(C)CC2F"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1cccc(F)c1C(=O)C1C2CCC1C2", "products": "COc1cccc(F)c1[C]([O])C1C2CCC1C2"}, {"reactants": "COc1cccc(F)c1[C]([O])C1C2CCC1C2", "products": "COc1cccc(F)c1C([O])=CC1C[CH]CC1"}, {"reactants": "COc1cccc(F)c1C([O])=CC1C[CH]CC1", "products": "COc1cccc(F)c1C(O)=CC1C=CCC1"}, {"reactants": "COc1cccc(F)c1C(O)=CC1C=CCC1", "products": "COc1cccc(F)c1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "COc1cc(C)cc(C2(O)C(=O)CC3CCC2(C)C3(C)C)c1.[H+]", "products": "COc1cc(C)cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1"}, {"reactants": "COc1cc(C)cc(C2([OH2+])C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1cc(C)cc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1.O"}, {"reactants": "COc1cc(C)cc([C+]2C(=O)CC3CCC2(C)C3(C)C)c1", "products": "COc1cc(C)cc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1"}, {"reactants": "COc1cc(C)cc(C23CCC(CC2=O)C(C)(C)[C+]3C)c1", "products": "COc1cc(C)cc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1"}, {"reactants": "COc1cc(C)cc(C2=C(C)C(C)(C)C(C#[O+])CC2)c1.O", "products": "COc1cc(C)cc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1"}, {"reactants": "COc1cc(C)cc(C2=C(C)C(C)(C)C(C(=O)[OH2+])CC2)c1", "products": "COc1cc(C)cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1"}, {"reactants": "COc1cc(C)cc(C2CCC(C(=O)O)C(C)(C)[C+]2C)c1", "products": "COc1cc(C)cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1"}, {"reactants": "COc1cc(C)cc(C2CCC3C(=O)[OH+]C2(C)C3(C)C)c1", "products": "COc1cc(C)cc(C2CCC3C(=O)OC2(C)C3(C)C)c1.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)CF)c2F", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)CF)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)CF)c([Si](C)(C)C)cc1=C", "products": "C[C@]12CC[C@@H]3c4c(cc([Si](C)(C)C)c([Si](C)(C)CF)c4F)CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1cc(C)cc(C(=O)C2C3CCC2C3)c1", "products": "Cc1cc(C)cc([C]([O])C2C3CCC2C3)c1"}, {"reactants": "Cc1cc(C)cc([C]([O])C2C3CCC2C3)c1", "products": "Cc1cc(C)cc(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "Cc1cc(C)cc(C([O])=CC2C[CH]CC2)c1", "products": "Cc1cc(C)cc(C(O)=CC2C=CCC2)c1"}, {"reactants": "Cc1cc(C)cc(C(O)=CC2C=CCC2)c1", "products": "Cc1cc(C)cc(C(=O)CC2C=CCC2)c1"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "Cc1ccc(S(=O)(=O)OC2C(OS(=O)(=O)c3ccc(C)cc3)C3(Cl)COC(F)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2=CC3(F)OCC(Cl)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2=CC3(F)OCC(Cl)(O3)C2OS(=O)(=O)c2ccc(C)cc2)cc1.[O-]C", "products": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(F)OCC2(Cl)O3)cc1"}, {"reactants": "Cc1ccc(S(=O)(=O)OC2C([O-])=CC3(F)OCC2(Cl)O3)cc1", "products": "O=C1C2C1C1(F)OCC2(Cl)O1"}, {"reactants": "O=C1C2C1C1(F)OCC2(Cl)O1.[O-]C", "products": "COC1([O-])C2C1C1(F)OCC2(Cl)O1"}, {"reactants": "COC1([O-])C2C1C1(F)OCC2(Cl)O1.CO", "products": "COC(=O)C1CC2(Cl)COC1(F)O2"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Cc1cc(F)cc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "Cc1cc(F)cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1"}, {"reactants": "Cc1cc(F)cc(CO[C@@H]2[C@@H](OCc3ccccc3)C[N][C@@H]2CC2([O])CC2)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(C)cc(F)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(C)cc(F)c1", "products": "Cc1cc(F)cc(CO[C@H]2CN3CCC(=O)C[C@H]3[C@@H]2OCc2ccccc2)c1"}]}
